US08975400B2
4-((6-(trifluoromethyl)pyridine-2-yl)oxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 2-chloro-6-(trifluoromethyl)pyridine and 4-hydroxybenzaldehyde.

reactant | 2-chloro-6-(trifluoromethyl)pyridine | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-((6-(trifluoromethyl)pyridine-2-yl)oxy)benzaldehyde | FC(C1=CC=CC(=N1)OC1=CC=C(C=O)C=C1)(F)F | C13H8F3NO2
